US07541473B2
3.2. Preparation of 2-[1-(1H-inden-3-yl)-1-methylethyl]pyridine
A solution of 10.8 g (0.09 mol) of 2-isopropylpyridine in 47 ml of tetrahydrofuran was cooled to −20° C. and 62.5 ml of n-butyllithium (1.6M in hexane, 0.11 mol) were subsequently added while stirring. The mixture was allowed to come to room temperature and was stirred for a further one hour. A solution of 15.84 g (0.12 mol) of 1-indanone in 12 ml of tetrahydrofuran was then added at such a rate that the temperature remained at 25° C. The mixture was stirred for a further 12 hours and hydrolyzed with 200 ml of dilute hydrochloric acid. The organic phase was separated off, the aqueous phase was extracted once with diethyl ether, the aqueous phase was subsequently neutralized with aqueous ammonia solution and was extracted three times with 100 ml each time of chloroform. The organic phases were combined, dried over magnesium sulfate, the magnesium sulfate was filtered off and the solvent was distilled off. This gave 16.6 g (77%) of 2-[1H-inden-3-yl)-1-methylethyl]pyridine.

reactant | 2-isopropylpyridine | 0.09 mol, 10.8 g | C(C)(C)C1=NC=CC=C1 | C8H11N
reactant | n-butyllithium | 0.11 mol, 1.6M, 62.5 ml | C(CCC)[Li]
reactant | 1-indanone | 0.12 mol, 15.84 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | tetrahydrofuran | 47 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 2-[1-(1H-inden-3-yl)-1-methylethyl]pyridine | C1C=C(C2=CC=CC=C12)C(C)(C)C1=NC=CC=C1 | C17H17N
